US05527934
In the same apparatus and procedures as EXAMPLE 1, 21.3 g (0.097 mole) of 3-(phenyl)-1,1-dichloro-1-silabutane and 100 μl of 1% chloroplatinic acid solution in isopropanol were placed and then 3.2 g (0.039 mole) of 1,5-hexadiene was added dropwise for 5 min. The solution was reacted for 15 hours at reflux under the dry nitrogen atmosphere. Vacuum distillation gave 13.4 g (185°-187° C./0.03 mmHg) of bis{(2-phenylpropyl)dichlorosilyl}hexane in 66.0% yield.

reactant | 3-(phenyl)-1,1-dichloro-1-silabutane | 0.097 mole, 21.3 g | C1(=CC=CC=C1)C(C[SiH](Cl)Cl)C | C9H12Cl2Si
reactant | 1,5-hexadiene | 0.039 mole, 3.2 g | C=CCCC=C | C6H10
solvent | isopropanol | C(C)(C)O | C3H8O
catalyst | chloroplatinic acid | 100 μl | [H+].[H+].Cl[Pt-2](Cl)(Cl)(Cl)(Cl)Cl
product | bis{(2-phenylpropyl)dichlorosilyl}hexane | 13.4 g, 66.0% yield | C1(=CC=CC=C1)C(C[Si](Cl)(Cl)C(CCCCC)[Si](CC(C)C1=CC=CC=C1)(Cl)Cl)C | C24H34Cl4Si2
